US08491868B2
A solution of 1,3-bis(tert-butoxy-carbonyl-[3-bromo-4-(3-fluoro-propoxy)-benzyl]-guanidine (250.6 mg, 50 mmol) in 4N HCl in dioxane (6 mL) was heated to 50° C. for 2 h. The reaction mixture was diluted with water (4 mL) and ACN (1 mL) and lyophilized to afford N-[3-bromo-4-(3-fluoro-propoxy)-benzyl]-guanidine hydrochloride as a white solid (169.1 mg, 99% yield). 1H NMR (DMSO-d6, 600 MHz): δ 8.03 (br t, 1H), 7.55 (m, 1H), 7.31-7.27 (m, 2H), 7.15 (d, J=9 Hz, 1H), 4.72 (t, J=6 Hz, 1H), 4.56 (t, J=6 Hz, 1H), 4.30 (m, 2H), 4.15 (t, J=6 Hz, 2H), 2.19-2.06 (m, 2h).

reactant | tert-butoxy-carbonyl-[3-bromo-4-(3-fluoro-propoxy)-benzyl]-guanidine | 50 mmol, 250.6 mg | C(C)(C)(C)ON(C(=N)N=C=O)CC1=CC(=C(C=C1)OCCCF)Br | C16H21BrFN3O3
reactant | HCl | 4N | Cl | ClH
solvent | dioxane | 6 mL | O1CCOCC1 | C4H8O2
solvent | water | 4 mL | O | H2O
solvent | ACN | 1 mL | C(C)#N | C2H3N
product | N-[3-bromo-4-(3-fluoro-propoxy)-benzyl]-guanidine hydrochloride | 169.1 mg, 99% yield | Cl.BrC=1C=C(CNC(=N)N)C=CC1OCCCF | InChI=1S/C11H15BrFN3O.ClH/c12-9-6-8(7-16-11(14)15)2-3-10(9)17-5-1-4-13;/h2-3,6H,1,4-5,7H2,(H4,14,15,16);1H
